US05403842
8-(4-bromobutoxy)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate XVI)
A mixture of 5 g of 8-hydroxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran, 4.2 g of anhydrous potassium carbonate and 43.6 g of 1,4-dibromobutane in 45 ml of dimethylformamide was stirred at 75° C. for 2 hours. The mixture was cooled to 20°-25° C., poured into 100 ml of water and extracted with dichloromethane. The organic solution was washed with aqueous sodium chloride solution and dried on anhydrous sodium sulfate. The solvents and excess 1,4-dibromobutane were evaporated off in vacuo. The residue was rinsed with 55 ml of petroleum ether:diethyl ether 7:4 and collected by suction filtration to yield 5.6 g of the title compound, m.p. 91°-92° C.

reactant | 8-hydroxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5 g | OC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H12O3
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dibromobutane | 43.6 g | BrCCCCBr | C4H8Br2
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 8-(4-bromobutoxy)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5.6 g | BrCCCCOC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C20H19BrO3
